### PR TITLE
[Merged by Bors] - Feat: add fermatLastTheoremThree_of_three_dvd_only_c

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `fermatLastTheoremThree_of_three_dvd_only_c`: To prove `FermatLastTheoremFor 3`, we may assume that `¬ 3 ∣ a`, `¬ 3 ∣ b`, `a` and `b`
are coprime and `3 ∣ c`.

From the flt3 project in LFTCM2024.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 1]
```diff
@@ -38,3 +42,135 @@ theorem fermatLastTheoremThree_case_1 {a b c : ℕ} (hdvd : ¬ 3 ∣ a * b * c)
...
+    rw [Odd.neg_pow (by decide), Odd.neg_pow (by decide), ← sub_eq_add_neg, sub_eq_iff_eq_add,
+        add_comm, ← sub_eq_add_neg, eq_sub_iff_add_eq]
+    exact_mod_cast habc
+  · exact H a b c (by simp [ha]) (by simp [hb]) (by simp [hc]) ⟨k, by simp [hk]⟩
+      (by exact_mod_cast habc)
+
+variable {a b c : ℕ} (ha : 3 ∣ a) (hb : 3 ∣ b) (hc : 3 ∣ c) (hF : a ^ 3 + b ^ 3 = c ^ 3)
+
+lemma three_dvd_gcd_of_dvd_a_of_dvd_c : 3 ∣ ({a, b, c} : Finset ℕ).gcd id := by
+  have hb : 3 ∣ b := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:72]: This is rather confusing, as there is a `variable (hb : 3 ∣ b)` around. It would be much clearer if you remove the divisibility hypotheses from the `variable` line and add the ones that are needed to each of the lemmas.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 2]
```diff
@@ -38,3 +42,135 @@ theorem fermatLastTheoremThree_case_1 {a b c : ℕ} (hdvd : ¬ 3 ∣ a * b * c)
...
+        (dvd_pow (by exact_mod_cast ha) (by decide))
+    exact Int.coe_nat_dvd.1 <| Int.prime_three.dvd_of_dvd_pow this
+  refine Finset.dvd_gcd (fun x hx ↦ ?_)
+  simp only [Finset.mem_insert, Finset.mem_singleton] at hx
+  rcases hx with (hx | hx | hx)
+  · exact hx ▸ ha
+  · exact hx ▸ hb
+  · exact hx ▸ hc
+
+lemma three_dvd_gcd_of_dvd_a_of_dvd_b : 3 ∣ ({a, b, c} : Finset ℕ).gcd id := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:87]: There is a lot of repetition here with these three lemmas that all basically say the same thing.
It might help to work with `a^3 + b^3 + c^3 = 0` instead of `a^3 + b^3 = c^3`, to make the symmetry more apparent. Then the two further lemmas can be more easily reduced to the first.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 3]
```diff
@@ -38,3 +42,135 @@ theorem fermatLastTheoremThree_case_1 {a b c : ℕ} (hdvd : ¬ 3 ∣ a * b * c)
   rcases cube_of_not_dvd hdvd.1.2 with hb | hb <;>
   rcases cube_of_not_dvd hdvd.2 with hc | hc <;>
   rw [ha, hb, hc] <;> decide
+
+/-- To prove `FermatLastTheoremFor 3`, we may assume that `3 ∣ c`. -/
+theorem fermatLastTheoremThree_of_three_dvd_c
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:47]: Is this result used anywhere? If not, it can be removed, as it is subsumed by the stronger result `fermatLastTheoremThree_of_three_dvd_only_c` below.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 4]
```diff
@@ -38,3 +42,135 @@ theorem fermatLastTheoremThree_case_1 {a b c : ℕ} (hdvd : ¬ 3 ∣ a * b * c)
...
+          (dvd_pow hpb (by decide))).2 ?_)
+        rw [add_comm, hF]
+        exact dvd_pow hpc (by decide)
+      · exact hx ▸ hpb
+      · exact hx ▸ hpc
+    · rw [Odd.neg_pow (by decide), Odd.neg_pow (by decide), add_comm, ← sub_eq_add_neg,
+        sub_eq_iff_eq_add, add_comm, ← sub_eq_add_neg, eq_sub_iff_add_eq, add_comm]
+      exact_mod_cast hF
+  · refine H a (-(c : ℤ)) ((-(b : ℤ))) (by simp [hb]) (fun hdvd ↦ h3 ?_) (fun hdvd ↦ h3 ?_) ?_ ?_ ?_
+    · exact Hgcd.symm ▸ three_dvd_gcd_of_dvd_a_of_dvd_b (by exact_mod_cast hdvd) ⟨k, hk⟩ hF
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:148]: Again, the triple repetition of the proof certainly can be mostly avoided.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:50]: Done.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean]: I've more or less avoided repetition, as you suggested. It's possible one can do better, but this seems reasonable to me.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 5]
```diff
@@ -27,130 +27,99 @@ private lemma cube_of_castHom_ne_zero {n : ZMod 9} :
...
-  simp only [Finset.mem_insert, Finset.mem_singleton] at hx
-  rcases hx with (hx | hx | hx)
-  · exact hx ▸ ha
-  · exact hx ▸ hb
-  · exact hx ▸ hc
+private lemma three_dvd_b_of_dvd_a_of_gcd_eq_one_of_case2 {a b c : ℤ} (ha : a ≠ 0) (hc : c ≠ 0)
+    (Hgcd: Finset.gcd {a, b, c} id = 1) (h3a : 3 ∣ a) (HF : a ^ 3 + b ^ 3 + c ^ 3 = 0)
+    (H : ∀ a b c : ℤ, c ≠ 0 → ¬ 3 ∣ a → ¬ 3 ∣ b  → 3 ∣ c → IsCoprime a b → a ^ 3 + b ^ 3 ≠ c ^ 3) :
+    3 ∣ b := by
+  have hbc : IsCoprime (-b) (-c) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:63]: Would it make sense to have a general lemma
```lean
lemma isCoprime_of_gcd_eq_one_of_FLT {n : ℕ} {a b c : ℤ} (Hgcd: Finset.gcd {a, b, c} id = 1)
    (HF : a ^ n + b ^ n + c ^ n = 0) :
    IsCoprime a b := ...
```
? I can imagine that this is likely to be used a number of times in the FLT project...

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 6]
```diff
@@ -3,38 +3,130 @@ Copyright (c) 2024 Riccardo Brasca. All rights reserved.
...
+  refine dvd_gcd (fun x hx ↦ ?_)
+  simp only [mem_insert, mem_singleton] at hx
+  rcases h1 with ((h3a | h3b) | h3c)
+  · have h3b : 3 ∣ b := by
+      refine three_dvd_b_of_dvd_a_of_gcd_eq_one_of_case2 ha (neg_ne_zero.2 hc) ?_ h3a hF H
+      simp only [← Hgcd, gcd_insert, gcd_singleton, id_eq, ← abs_eq_normalize, abs_neg]
+    rcases hx with (hx | hx | hx)
+    · exact hx ▸ h3a
+    · exact hx ▸ h3b
+    · simpa [hx] using three_dvd_c_of_dvd_a_of_dvd_b hF h3a h3b
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:112]: This block is still essentially repeated three times. I think it makes sense to extract one of the cases (say, `3 ∣ a`) as a separate lemma (with roughly the six lines above as its proof) and then use this helper lemma three times.

**Review by MichaelStollBayreuth — COMMENTED** [review]
I think the structure of the proof(s) can still be improved somewhat.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: I've added it (it needs that one of the variable is different from `0`, I picked `b`).

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: Wait, maybe it doesn't need the assumption, let me see.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: It doesn't, not the prettiest proof. I will have a look tomorrow or later today.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: The proof is now better. If find amusing that we are missing `a ^ n ∣ b ^ n ↔ a ∣ b`.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: what about [Nat.pow_dvd_pow_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/GCD/Basic.html#Nat.pow_dvd_pow_iff) and [Int.pow_dvd_pow_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Int/GCD.html#Int.pow_dvd_pow_iff) ?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:63]: Ops, I somehow didn't find it. Let me use it to reduce imports, but I will also keep the version for integrally closed domains.

File: Mathlib/NumberTheory/FLT/Basic.lean [hunk 7]
```diff
@@ -140,3 +143,35 @@ lemma fermatLastTheoremWith_of_fermatLastTheoremWith_coprime {n : ℕ} {R : Type
...
+  · rw [← Hgcd]
+    refine Finset.dvd_gcd_iff.2 (fun x hx ↦ ?_)
+    simp only [Finset.mem_insert, Finset.mem_singleton] at hx
+    rcases hx with (hx | hx | hx)
+    · exact hx ▸ hpa
+    · exact hx ▸ hpb
+    · rw [hx, id_eq]
+      rw [add_eq_zero_iff_eq_neg] at HF
+      exact hp.dvd_of_dvd_pow (n := n) <|
+        (dvd_neg.1 <| HF.symm ▸ dvd_add (dvd_pow hpa hn) (dvd_pow hpb hn))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Basic.lean]:
```suggestion
  rcases n.eq_zero_or_pos with rfl | hn
  · simp only [pow_zero, Int.reduceAdd, OfNat.ofNat_ne_zero] at HF
  refine isCoprime_of_prime_dvd  ?_ <| (fun p hp hpa hpb ↦ hp.not_dvd_one ?_)
  · rintro ⟨rfl, rfl⟩
    simp only [ne_eq, hn.ne', not_false_eq_true, zero_pow, add_zero, zero_add, pow_eq_zero_iff]
      at HF
    simp only [HF, Finset.mem_singleton, Finset.insert_eq_of_mem, Finset.gcd_singleton, id_eq,
      map_zero, zero_ne_one] at Hgcd
  · have hpc : p ∣ c := by
      refine (Int.pow_dvd_pow_iff hn).mp ?_
      rw [← Int.neg_eq_of_add_eq_zero HF, dvd_neg]
      exact dvd_add ((Int.pow_dvd_pow_iff hn).mpr hpa) ((Int.pow_dvd_pow_iff hn).mpr hpb)
    rw [← Hgcd]
    refine Finset.dvd_gcd_iff.mpr fun x hx ↦ ?_
    simp only [Finset.mem_insert, Finset.mem_singleton] at hx
    rcases hx with hx | hx | hx <;> simp only [id_eq, hx, hpa, hpb, hpc]
```
BTW, I think the nonvanishing condition in `isCoprime_of_prime_dvd` and friends should not be necessary (if `x = 0` and no prime divides `y`, then `y` is a unit and `x` and `y` are coprime).

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 8]
```diff
@@ -123,16 +123,16 @@ theorem integralClosure_eq_bot_iff : integralClosure R K = ⊥ ↔ IsIntegrallyC
 #align is_integrally_closed.integral_closure_eq_bot_iff IsIntegrallyClosed.integralClosure_eq_bot_iff
 
 @[simp]
-theorem pow_dvd_pow_iff {n : ℕ} (hn : n ≠ 0) {a b : R} : a ^ n ∣  b ^ n ↔ a ∣ b  := by
+theorem pow_dvd_pow_iff {n : ℕ} (hn : 0 < n) {a b : R} : a ^ n ∣  b ^ n ↔ a ∣ b  := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/IntegrallyClosed.lean:126]: I think `n ≠ 0` is preferred over `0 < n` for assumptions.

Comment (riccardobrasca) [reply Mathlib/RingTheory/IntegrallyClosed.lean:126]: I also prefer it, but I guess it's better to keep all the statements the same. Let me see how painful is to modify the `Int` and `Nat` versions.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 9]
```diff
@@ -3,38 +3,122 @@ Copyright (c) 2024 Riccardo Brasca. All rights reserved.
...
 Prove case 2.
 -/
 
+section case1
+
 open ZMod
 
 private lemma cube_of_castHom_ne_zero {n : ZMod 9} :
     castHom (show 3 ∣ 9 by norm_num) (ZMod 3) n ≠ 0 → n ^ 3 = 1 ∨ n ^ 3 = 8 := by
   fin_cases n <;> decide
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:28]:
```suggestion
  revert n; decide
```
is faster (`fin_cases` tends to be slow). In 3, we had `dec_trivial!`, which would do the `revert` automatically...

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 10]
```diff
@@ -3,38 +3,122 @@ Copyright (c) 2024 Riccardo Brasca. All rights reserved.
...
   rcases cube_of_not_dvd hdvd.1.2 with hb | hb <;>
   rcases cube_of_not_dvd hdvd.2 with hc | hc <;>
   rw [ha, hb, hc] <;> decide
+
+end case1
+
+section case2
+
+private lemma three_dvd_c_of_dvd_a_of_dvd_b {a b c : ℤ} (HF : a ^ 3 + b ^ 3 + c ^ 3 = 0)
+    (h3a : 3 ∣ a) (h3b : 3 ∣ b) : 3 ∣ c := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:54]: This can be stated for all exponents `n` and all integers `3` (and might be useful more generally).
It can then also be used to golf `isCoprime_of_gcd_eq_one_of_FLT`.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 11]
```diff
@@ -306,14 +306,14 @@ theorem dvd_mul {x m n : ℕ} : x ∣ m * n ↔ ∃ y z, y ∣ m ∧ z ∣ n ∧
...
-theorem pow_dvd_pow_iff {a b n : ℕ} (n0 : 0 < n) : a ^ n ∣ b ^ n ↔ a ∣ b := by
+theorem pow_dvd_pow_iff {a b n : ℕ} (n0 : n ≠ 0) : a ^ n ∣ b ^ n ↔ a ∣ b := by
   refine' ⟨fun h => _, fun h => pow_dvd_pow_of_dvd h _⟩
   rcases Nat.eq_zero_or_pos (gcd a b) with g0 | g0
   · simp [eq_zero_of_gcd_eq_zero_right g0]
   rcases exists_coprime' g0 with ⟨g, a', b', g0', co, rfl, rfl⟩
   rw [mul_pow, mul_pow] at h
   replace h := Nat.dvd_of_mul_dvd_mul_right (pow_pos g0' _) h
-  have := pow_dvd_pow a' n0
+  have := pow_dvd_pow a' <| Nat.pos_of_ne_zero n0
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Nat/GCD/Basic.lean:316]: `n0.pos_of_ne_zero` ?

Comment (riccardobrasca) [reply Mathlib/Data/Nat/GCD/Basic.lean:316]: Not sure why, but this doesn't work.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 10 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean]: Done.

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 12]
```diff
@@ -122,6 +122,25 @@ theorem integralClosure_eq_bot_iff : integralClosure R K = ⊥ ↔ IsIntegrallyC
     exact isIntegral_iff.mp hx
 #align is_integrally_closed.integral_closure_eq_bot_iff IsIntegrallyClosed.integralClosure_eq_bot_iff
 
+@[simp]
+theorem pow_dvd_pow_iff {n : ℕ} (hn : n ≠ 0) {a b : R} : a ^ n ∣  b ^ n ↔ a ∣ b  := by
```
Comment (tb65536) [inline Mathlib/RingTheory/IntegrallyClosed.lean:126]:
```suggestion
theorem pow_dvd_pow_iff {n : ℕ} (hn : n ≠ 0) {a b : R} : a ^ n ∣ b ^ n ↔ a ∣ b  := by
```

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM now!

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
